US04616009
To a suspension of 1.2 g of 2-methyl-N-(4-piperidyl)indole-3-carboxamide and 1 g of potassium carbonate in 50 ml of toluene and 10 ml of dimethylformamide was added dropwise 0.6 g of benzyl chloride. The mixture was refluxed under heating for 3 hours. After cooling, 50 ml of water was poured into the mixture. The insoluble materials precipitated were filtered by suction and recrystallized from methanol to give N-(1-benzyl-4-piperidyl)-2-methylindole-3-carboxamide, melting at 150°-153° C.

reactant | 2-methyl-N-(4-piperidyl)indole-3-carboxamide | 1.2 g | CC=1NC2=CC=CC=C2C1C(=O)NC1CCNCC1 | C15H19N3O
reactant | potassium carbonate | 1 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | 0.6 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | water | 50 ml | O | H2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-(1-benzyl-4-piperidyl)-2-methylindole-3-carboxamide | C(C1=CC=CC=C1)N1CCC(CC1)NC(=O)C1=C(NC2=CC=CC=C12)C | C22H25N3O
